US07112697B1
2-Phenylsulfanyl-benzoic acid methyl ester (entry 6, Table 1):
The general procedure was used to convert Methyl-2-iodobenzoate and thiophenol to the title product. Purification by flash chromatography (hexane/ethyl acetate [6:1] as the eluent) gave the analytically pure product as a clear oil (397 mg, 81% yield). 1H NMR (300 MHz, CDCl3) δ 7.88 (dd, J=6.22, 1H; Hd), 7.47 (m, 2H; Ha, Hb), 7.33 (m, 3H; He, He′, Hf′), 7.14 (td, J=5.4, 1H; Hc), 7.04 (td, J=6.02, 1H; Hf), 6.73 (dd, J=6.78, 1H; Hg), 3.85 (s, 3H; methyl protons). 13C NMR (75 MHz, CDCl3) δ 166.79 (C13), 143.15 (C1), 135.47 (C6), 132.39 (C3), 132.22 (C2), 130.93 (C5), 129.65 (C7), 129.02 (C8, C12), 127.28 (C9, C11), 126.58 (C10), 124.19 (C4), 52.10 (C14). Anal. Calcd. for C14H12O2S: C, 68.83; H, 4.95; S, 13.13; Found C, 68.94; H, 5.10; S, 12.90.

reactant | Methyl-2-iodobenzoate | COC(C1=C(C=CC=C1)I)=O | C8H7IO2
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 2-Phenylsulfanyl-benzoic acid methyl ester | COC(C1=C(C=CC=C1)SC1=CC=CC=C1)=O | C14H12O2S
